US05095016
Preparation of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-formimidoyl)amino]-2H-benzo[b]pyran-3-ol
To 1.18 g of ethyl N-cyanoformimidate, 2.29 g of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-amino-2H-benzo[b]pyran-3-ol was added, and the mixture was reacted under stirring at a temperature of from 100° to 120° C. for 2 hours. The reaction mixture was cooled, then dissolved in 100 ml of ethyl acetate, washed twice with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The residual solid was recrystallized from methylene chloride/isopropanol/petroleum ether to obtain 1.75 g of the above identified compound in the form of crystals.

reactant | ethyl N-cyanoformimidate | 1.18 g | C(#N)N=COCC | C4H6N2O
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-amino-2H-benzo[b]pyran-3-ol | 2.29 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N)O)(C)C)C=C1 | C12H14N2O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-formimidoyl)amino]-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC=NC#N)O)(C)C)C=C1 | C14H14N4O2
